US07776920B2
Acetoxy(3-chlorophenyl)acetic acid
1 g of racemic 3-chloromandelic acid is mixed with 2 ml of acetyl chloride.

reactant | racemic 3-chloromandelic acid | 1 g | ClC=1C=C(C(C(=O)O)O)C=CC1 | C8H7ClO3
reactant | acetyl chloride | 2 ml | C(C)(=O)Cl | C2H3ClO
product | Acetoxy(3-chlorophenyl)acetic acid | C(C)(=O)OC(C(=O)O)C1=CC(=CC=C1)Cl | C10H9ClO4
